US05202315
A. Preparation of methyl (±)-2-cyanobutyrate
To (±)-2-bromobutyric acid(167.01 g) was added water (150 ml). Sodium carbonate (54.05 g) was added slowly over an hour and dissolved therein. A solution of potassium cyanide (68.55 g) dissolved in water (150 ml) was added, and heated to about 50° C. Accordingly as the reaction progressed, the temperature of the reaction solution rose to 80° C. The reaction solution was stirred at 80°~90° C. for an hour, cooled to room temperature, and neutralized with conc. hydrochloric acid (120 ml). Afterwards, the such neutralized solution was concentrated under reduced pressure, and ethyl alcohol (500 ml) was added to the residue. The obtained ethanolic solution was concentrated under reduced pressure again. To the residue was added ethyl alcohol (700 ml), followed by filtration. After conc. sulfuric acid (3 ml) was added to the filtrate, the solution was refluxed for 5 hours and distilled to remove about 300 ml of ethyl alcohol. The solution was concentrated under reduced prrssure, and the residue was added to sodium carbonate saturated solution(400 ml). After extraction with ether (500 ml), the separated organic layer was washed with a 10% saline solution (500 ml) and a saturated saline solution(300 ml), dried over anhydrous magnesium sulfate, filtered and then concentrated. The residue was distilled under reduced pressure to give the colorless above-indicated compound(49.90 g).

reactant | (±)-2-bromobutyric acid | 167.01 g | BrC(C(=O)O)CC | C4H7BrO2
reactant | Sodium carbonate | 54.05 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium cyanide | 68.55 g | [C-]#N.[K+]
reactant | hydrochloric acid | 120 ml | Cl | ClH
solvent | water | 150 ml | O | H2O
solvent | water | 150 ml | O | H2O
product | methyl (±)-2-cyanobutyrate | 49.90 g, Yield: 35% | C(#N)C(C(=O)OC)CC | C6H9NO2
